* 21-stage CMOS ring oscillator — scaling benchmark
.model nm NMOS (vto=0.5 kp=200u lambda=0.05)
.model pm PMOS (vto=-0.5 kp=80u lambda=0.05)
Vdd  vdd 0   DC 1.8

Mn1  n1 n21 0   0   nm w=10u l=1u
Mp1  n1 n21 vdd vdd pm w=20u l=1u
C1   n1 0  100f

Mn2  n2 n1 0   0   nm w=10u l=1u
Mp2  n2 n1 vdd vdd pm w=20u l=1u
C2   n2 0  100f

Mn3  n3 n2 0   0   nm w=10u l=1u
Mp3  n3 n2 vdd vdd pm w=20u l=1u
C3   n3 0  100f

Mn4  n4 n3 0   0   nm w=10u l=1u
Mp4  n4 n3 vdd vdd pm w=20u l=1u
C4   n4 0  100f

Mn5  n5 n4 0   0   nm w=10u l=1u
Mp5  n5 n4 vdd vdd pm w=20u l=1u
C5   n5 0  100f

Mn6  n6 n5 0   0   nm w=10u l=1u
Mp6  n6 n5 vdd vdd pm w=20u l=1u
C6   n6 0  100f

Mn7  n7 n6 0   0   nm w=10u l=1u
Mp7  n7 n6 vdd vdd pm w=20u l=1u
C7   n7 0  100f

Mn8  n8 n7 0   0   nm w=10u l=1u
Mp8  n8 n7 vdd vdd pm w=20u l=1u
C8   n8 0  100f

Mn9  n9 n8 0   0   nm w=10u l=1u
Mp9  n9 n8 vdd vdd pm w=20u l=1u
C9   n9 0  100f

Mn10 n10 n9 0   0   nm w=10u l=1u
Mp10 n10 n9 vdd vdd pm w=20u l=1u
C10  n10 0  100f

Mn11 n11 n10 0   0   nm w=10u l=1u
Mp11 n11 n10 vdd vdd pm w=20u l=1u
C11  n11 0  100f

Mn12 n12 n11 0   0   nm w=10u l=1u
Mp12 n12 n11 vdd vdd pm w=20u l=1u
C12  n12 0  100f

Mn13 n13 n12 0   0   nm w=10u l=1u
Mp13 n13 n12 vdd vdd pm w=20u l=1u
C13  n13 0  100f

Mn14 n14 n13 0   0   nm w=10u l=1u
Mp14 n14 n13 vdd vdd pm w=20u l=1u
C14  n14 0  100f

Mn15 n15 n14 0   0   nm w=10u l=1u
Mp15 n15 n14 vdd vdd pm w=20u l=1u
C15  n15 0  100f

Mn16 n16 n15 0   0   nm w=10u l=1u
Mp16 n16 n15 vdd vdd pm w=20u l=1u
C16  n16 0  100f

Mn17 n17 n16 0   0   nm w=10u l=1u
Mp17 n17 n16 vdd vdd pm w=20u l=1u
C17  n17 0  100f

Mn18 n18 n17 0   0   nm w=10u l=1u
Mp18 n18 n17 vdd vdd pm w=20u l=1u
C18  n18 0  100f

Mn19 n19 n18 0   0   nm w=10u l=1u
Mp19 n19 n18 vdd vdd pm w=20u l=1u
C19  n19 0  100f

Mn20 n20 n19 0   0   nm w=10u l=1u
Mp20 n20 n19 vdd vdd pm w=20u l=1u
C20  n20 0  100f

Mn21 n21 n20 0   0   nm w=10u l=1u
Mp21 n21 n20 vdd vdd pm w=20u l=1u
C21  n21 0  100f

.ic V(n1)=1.6 V(n2)=0.1 V(n3)=1.6 V(n4)=0.1 V(n5)=1.6 V(n6)=0.1 V(n7)=1.6 V(n8)=0.1 V(n9)=1.6 V(n10)=0.1 V(n11)=1.6 V(n12)=0.1 V(n13)=1.6 V(n14)=0.1 V(n15)=1.6 V(n16)=0.1 V(n17)=1.6 V(n18)=0.1 V(n19)=1.6 V(n20)=0.1 V(n21)=1.6
.options method=gear
.tran 50p 80n UIC
.end
